US06423688B1
N-(Toluene-4-sulfonyl)sarcosine was coupled to 3-(4-pyridyl)alanine methyl ester dihydrochloride using the procedure described in Method 3 to give N-(toluene-4-sulfonyl)sarcosyl-β-(4-pyridyl)alanine.

reactant | N-(Toluene-4-sulfonyl)sarcosine | C1(=CC=C(C=C1)S(=O)(=O)N(C)CC(=O)O)C | C10H13NO4S
reactant | 3-(4-pyridyl)alanine methyl ester dihydrochloride | Cl.Cl.COC([C@@H](N)CC1=CC=NC=C1)=O
product | N-(toluene-4-sulfonyl)sarcosyl-β-(4-pyridyl)alanine | C1(=CC=C(C=C1)S(=O)(=O)N(C)CC(=O)N[C@@H](CC1=CC=NC=C1)C(=O)O)C | C18H21N3O5S
